US08334308B2
V.13; N-(2-bromobenzyl)acetamide
To a solution of commercially available 1-(2-bromophenyl)methanamine hydrochloride salt (1 eq.) in CH2Cl2 (0.3M) at room temperature was added triethylamine (2.1 eq) then acetic anhydride (1.1 eq.). The mixture was stirred at room temperature for 6 h, poured in aqueous HCl (0.5N) and extracted with CH2Cl2. The organic extract was dried over MgSO4 filtered and concentrated to afford the desired compound as a white solid.

reactant | 1-(2-bromophenyl)methanamine hydrochloride salt | 1 eq. | Cl.BrC1=C(C=CC=C1)CN
reactant | triethylamine | 2.1 eq | C(C)N(CC)CC | C6H15N
reactant | acetic anhydride | 1.1 eq. | C(C)(=O)OC(C)=O | C4H6O3
solvent | CH2Cl2 | 0.3M | C(Cl)Cl | CH2Cl2
solvent | HCl | 0.5N | Cl | ClH
product | N-(2-bromobenzyl)acetamide | BrC1=C(CNC(C)=O)C=CC=C1 | C9H10BrNO
